US08859602B2
c) [4-(4-Nitro-phenyl)-tetrahydro-pyran-4-ylmethyl]-carbamic acid tert-butyl ester
A solution of C-[4-(4-nitro-phenyl)-tetrahydro-pyran-4-yl]-methylamine (as prepared in the previous step) in THF is treated with BOC2O at RT. The mixture is diluted with EtOAc and washed with water. The organic layer is dried (MgSO4) and concentrated in vacuo. The residue is purified by silica gel chromatography with the appropriate solvent to afford the title compound.

reactant | C-[4-(4-nitro-phenyl)-tetrahydro-pyran-4-yl]-methylamine | [N+](=O)([O-])C1=CC=C(C=C1)C1(CCOCC1)CN | C12H16N2O3
reactant | BOC2O | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
solvent | THF | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | [4-(4-Nitro-phenyl)-tetrahydro-pyran-4-ylmethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1(CCOCC1)C1=CC=C(C=C1)[N+](=O)[O-])=O | C17H24N2O5
